US07176242B2
Step 3. 2-[butyl(methyl)amino]-6-cyano-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isonicotinamide
In the same manner as for N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylpyrimidine-4-carboxamide {EXAMPLE S-2435}, Step 3, 2-[butyl(methyl)amino]-6-cyanoisonicotinic acid (0.135 g) was converted to the title compound (0.223 g).

reactant | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylpyrimidine-4-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C2=NC(=NC(=C2)C)N(CCC)CCC)C=C(C1)F | C31H41F2N5O2
reactant | 2-[butyl(methyl)amino]-6-cyanoisonicotinic acid | 0.135 g | C(CCC)N(C=1C=C(C(=O)O)C=C(N1)C#N)C | C12H15N3O2
product | 2-[butyl(methyl)amino]-6-cyano-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isonicotinamide | 0.223 g | C(CCC)N(C=1C=C(C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)C=C(N1)C#N)C | C31H37F2N5O2
